US08168794B2
In a round-bottomed flask was added (+/−)-4-(3-azido-4-(tert-butyldimethylsilyloxy)cyclohex-1-enyl)-3-nitropyridine (1.0 equiv.) and pyridine (0.1M) to give a yellow solution. Ammonium hydroxide (10:1 pyridine:ammonium hydroxide) was added followed by PMe3 (3.0 equiv.). The reaction turned dark brown after 10 min. Stirred at room temperature for 1.5 h. Quenched by adding EtOH, and concentrated. Repeated 2 more times. To the crude was added sat. NaHCO3 and dioxane (1:1, 0.1M). Boc2O (1.0 equiv.) was added. Stirred for one hour at room temperature. Washed with H2O and EtOAc, the organic phase was dried with MgSO4, filtered and concentrated. The residue was purified via ISCO (5:1 Hex/EtOAc). Collected the pure fractions and concentrated to give (+)-tert-butyl 6-(tert-butyldimethylsilyloxy)-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate as a foam. LCMS (m/z): 450.3 (MH+), LC Rt=5.83 min.

reactant | (+/−)-4-(3-azido-4-(tert-butyldimethylsilyloxy)cyclohex-1-enyl)-3-nitropyridine | 1.0 equiv. | N(=[N+]=[N-])C1C=C(CCC1O[Si](C)(C)C(C)(C)C)C1=C(C=NC=C1)[N+](=O)[O-] | C17H25N5O3Si
reactant | Ammonium hydroxide | [OH-].[NH4+]
reactant | PMe3 | 3.0 equiv. | P(C)(C)C | C3H9P
reactant | Boc2O | 1.0 equiv. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | pyridine | 0.1M | N1=CC=CC=C1 | C5H5N
product | (+)-tert-butyl 6-(tert-butyldimethylsilyloxy)-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate | [Si](C)(C)(C(C)(C)C)OC1CCC(=CC1NC(OC(C)(C)C)=O)C1=C(C=NC=C1)[N+](=O)[O-] | C22H35N3O5Si
